data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
1916,2124,[CH3:17][NH:18][C:19](=[O:20])[C:21](=[O+:22][O-:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[O:22][O:23]2,water,298.15,11.194783648018689,-52.76829155673475
432,474,[CH3:13][C:14](=[O:15])[CH:16]=[N+:17]([CH3:18])[CH-:19][C:20]#[N:21].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([CH3:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([CH3:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[CH:19]([C:20]#[N:21])[N:17]([CH3:18])[CH:16]2[C:14]([CH3:13])=[O:15],water,298.15,21.62564163259172,-20.32280874660004
1782,1973,[CH3:1][C:2](=[O:3])[C:4](=[C:5]([c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1)[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1)[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:24][CH:25]=[NH+:26][C-:27]([CH3:28])[C:29]#[N:30]>>[CH3:1][C:2](=[O:3])[C:4]1([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[C:5]([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[C:27]([CH3:28])([C:29]#[N:30])[NH:26][CH:25]1[CH3:24],water,298.15,21.160696734624786,-2.25126307053736
5124,5818,[CH3:6][NH:7][C:8](=[O:9])[C:10]([C:11](=[O:12])[NH:13][CH3:14])=[N+:15]([CH3:16])[C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[NH2+:1]=[C:2]([NH2:3])[NH:4][CH3:5]>>[NH2+:1]1[C:2]([NH2:3])([NH:4][CH3:5])[C:17]([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)([c:24]2[cH:25][cH:26][cH:27][cH:28][cH:29]2)[N:15]([CH3:16])[C:10]1([C:8]([NH:7][CH3:6])=[O:9])[C:11](=[O:12])[NH:13][CH3:14],water,298.15,68.93008938070885,40.18637112421346
1094,1192,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[CH:20][C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:15]([C:13]([NH:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[CH:20]3[C:21](=[O:22])[O:23][CH3:24],water,298.15,16.578635718176653,-39.77686502952718
1874,2078,[CH3:12][NH:13][C:14](=[O:15])[C-:16]([O+:17]=[C:18]([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C:26](=[O:27])[NH:28][CH3:29].[CH3:1][C:2](=[O:3])[CH:4]=[C:5]([C:6]([CH3:7])=[O:8])[C:9]([CH3:10])=[O:11]>>[CH3:1][C:2](=[O:3])[CH:4]1[C:5]([C:6]([CH3:7])=[O:8])([C:9]([CH3:10])=[O:11])[C:16]([C:14]([NH:13][CH3:12])=[O:15])([C:26](=[O:27])[NH:28][CH3:29])[O:17][C:18]1([CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,18.5126245999366,-26.22091047180779
1637,1808,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]([CH3:17])=[O:18])=[N+:19]([CH3:20])[C-:21]([CH3:22])[C:23](=[O:24])[NH:25][CH3:26].[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:21]([CH3:22])([C:23](=[O:24])[NH:25][CH3:26])[N:19]([CH3:20])[C:15]3([C:13]([NH:12][CH3:11])=[O:14])[C:16]([CH3:17])=[O:18],water,298.15,27.77613425922101,-37.29351320648286
3887,4447,[CH3:10][O:11][C:12](=[O:13])[C:14]#[N+:15][N-:16][C:17](=[O:18])[O:19][CH3:20].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:16]([C:17](=[O:18])[O:19][CH3:20])[N:15]=[C:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,25.06425290359369,-41.29515376726334
196,213,[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18].[CH3:1][O:2][C:3]1=[C:4]([CH3:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][O:2][C:3]12[C:4]([CH3:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[C:12]([CH3:11])([CH3:13])[O:14][C:15]2([CH3:16])[C:17]#[N:18],water,298.15,7.178103990892692,-57.91093322161564
4902,5586,[CH3:10][O:11][C:12](=[O:13])[CH-:14][O+:15]=[C:16]([C:17](=[O:18])[O:19][CH3:20])[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:16]([C:17](=[O:18])[O:19][CH3:20])([c:21]2[cH:22][cH:23][cH:24][cH:25][cH:26]2)[O:15][CH:14]1[C:12]([O:11][CH3:10])=[O:13],water,298.15,12.951721805918355,-45.26739043951539
1459,1607,[CH3:11][NH:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20](=[O:21])[NH:22][CH3:23])[C:24](=[O:25])[NH:26][CH3:27].[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:19]([C:20](=[O:21])[NH:22][CH3:23])([C:24](=[O:25])[NH:26][CH3:27])[NH:18][C:15]3([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,16.126676504404806,-35.9534332878317
